** GENERATED by `analog-db export-raw` — DO NOT EDIT.
** Standalone lowered DUT subckt for ldo_005_buffered_ref on gf180mcu (sizing .param defaults + .subckt).
** Not a runnable deck on its own — include it under your own testbench:
**   .include _dut.spice
**   XDUT vdd vout vss ldo_005_buffered_ref
** Source: pdk/gf180mcu/netlist.spice (run `analog-db generate` to refresh).
*----------------------------------------------------------*
** params: 25 free + 0 frozen knobs (sizing.yaml) · 12 tied · 0 ratio-derived (abstract/params.yaml)
.param x_dut_xmp_w=20u
.param x_dut_xmp_m=20
.param x_dut_xmp_l=0.5u
.param r_bleed=10k
.param r_z=1
.param c_comp=0.05p
.param x_dut_xm7_w=4u
.param x_dut_xm7_l=0.5u
.param x_dut_xm9_w=4u
.param x_dut_xm9_l=0.5u
.param x_dut_xm12_w=4u
.param x_dut_xm12_l=1.0u
.param i_tail_err=200u
.param x_dut_xm1_w=4u
.param x_dut_xm1_l=0.5u
.param x_dut_xm3_w=4u
.param x_dut_xm3_l=0.5u
.param x_dut_xm6_w=4u
.param x_dut_xm6_l=1.0u
.param i_tail_ref=100u
.param r_ref_top=100k
.param r_ref_bot=100k
.param r_lpf=10k
.param c_lpf=10p
.param vref_val=0.8
* ---- GENERATED parameter ties (abstract/params.yaml groups/ratios) ----
* Each tied symbol is defined exactly once, by its line below; rewrite that
* .param to untie just that symbol (untying = shadowing, plan D-3).
.param x_dut_xm2_w = {x_dut_xm1_w}
.param x_dut_xm2_l = {x_dut_xm1_l}
.param x_dut_xm4_w = {x_dut_xm3_w}
.param x_dut_xm4_l = {x_dut_xm3_l}
.param x_dut_xm5_w = {x_dut_xm6_w}
.param x_dut_xm5_l = {x_dut_xm6_l}
.param x_dut_xm8_w = {x_dut_xm7_w}
.param x_dut_xm8_l = {x_dut_xm7_l}
.param x_dut_xm10_w = {x_dut_xm9_w}
.param x_dut_xm10_l = {x_dut_xm9_l}
.param x_dut_xm11_w = {x_dut_xm12_w}
.param x_dut_xm11_l = {x_dut_xm12_l}
.subckt ldo_005_buffered_ref vdd vout vss
CC ncz vout 'c_comp'
C_LPF v_lpf_out vss 'c_lpf'
IBIAS_ERR vdd ebias_err dc {i_tail_err}
IBIAS_REF vdd ebias_ref dc {i_tail_ref}
R1 v_ref_out v_ref_fb 'r_ref_top'
R2 v_ref_fb vss 'r_ref_bot'
R3 vout vss 'r_bleed'
RZ egate ncz 'r_z'
R_LPF v_ref_out v_lpf_out 'r_lpf'
VREF vref vss dc {vref_val}
XM1 rd1 vref retail vss nfet_03v3 l=x_dut_xm1_l w=x_dut_xm1_w
XM10 egate noutm vdd vdd pfet_03v3 l=x_dut_xm10_l w=x_dut_xm10_w
XM11 etail ebias_err vss vss nfet_03v3 l=x_dut_xm11_l w=x_dut_xm11_w
XM12 ebias_err ebias_err vss vss nfet_03v3 l=x_dut_xm12_l w=x_dut_xm12_w
XM2 v_ref_out v_ref_fb retail vss nfet_03v3 l=x_dut_xm2_l w=x_dut_xm2_w
XM3 rd1 rd1 vdd vdd pfet_03v3 l=x_dut_xm3_l w=x_dut_xm3_w
XM4 v_ref_out rd1 vdd vdd pfet_03v3 l=x_dut_xm4_l w=x_dut_xm4_w
XM5 retail ebias_ref vss vss nfet_03v3 l=x_dut_xm5_l w=x_dut_xm5_w
XM6 ebias_ref ebias_ref vss vss nfet_03v3 l=x_dut_xm6_l w=x_dut_xm6_w
XM7 noutm vout etail vss nfet_03v3 l=x_dut_xm7_l w=x_dut_xm7_w
XM8 egate v_lpf_out etail vss nfet_03v3 l=x_dut_xm8_l w=x_dut_xm8_w
XM9 noutm noutm vdd vdd pfet_03v3 l=x_dut_xm9_l w=x_dut_xm9_w
XMP vout egate vdd vdd pfet_03v3 l=x_dut_xmp_l m=x_dut_xmp_m w=x_dut_xmp_w
.ends
